US08314087B2
1-(2-Aminoethyl)-5-(thiophen-2-yl)pyridin-2(1H)-one.
To a solution of tert-butyl 2-(2-oxo-5-(thiophen-2-yl)pyridin-1(2H)-yl)ethylcarbamate (125 mg, 390 μmol) in CH2Cl2 (1 mL) was added TFA (5 mL) and stirred for 30 min at 23° C. Solvents removed under reduced pressure and residue partioned between CH2Cl2 (10 mL) and 1M NaOH (5 mL). The organic layer was dried over MgSO4 and reduced to a brown oil under reduced pressure. MS (ESI pos. ion) m/z (MH+): 221 (MH+). Calc'd exact mass for C11H12N2OS: 220.

reactant | tert-butyl 2-(2-oxo-5-(thiophen-2-yl)pyridin-1(2H)-yl)ethylcarbamate | 390 μmol, 125 mg | O=C1N(C=C(C=C1)C=1SC=CC1)CCNC(OC(C)(C)C)=O | C16H20N2O3S
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Aminoethyl)-5-(thiophen-2-yl)pyridin-2(1H)-one | NCCN1C(C=CC(=C1)C=1SC=CC1)=O | C11H12N2OS
